Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
HPI: ___. is a ___ male with class III
morbid obesity and BMI of 52.8 with co-morbidities of
recently diagnosed moderate obstructive sleep apnea with
recommendation for CPAP, hypertension not on medication,
hyperlipidemia, vitamin D deficiency and hepatic steatosis by
ultrasound study.

He would like to proceed with sleeve gastrectomy and feels
motivated to continue working on on healthy lifestyle
modifications.

 
Past Medical History:
1)  hypertension
2)  hyperlipidemia
3)  history of childhood asthma with no recent flares
4)  vitamin D deficiency
5)  hepatic steatosis by ultrasound study
6)  recent diagnosis of moderate obstructive sleep apnea-CPAP

 
Social History:
___
Family History:
His family history is noted for father living age ___ with
obesity; mother living age ___ with hypertension, 2 brothers ages
___ and ___ alive and well.

 
Physical Exam:
T 98.8 BP 135/85 P 98 RR ___ Ra 
General: no acute distress, alert and oriented x 3
Cardiac: regular rate and rhythm, no murmurs appreciated
Resp: CTA B, no respiratory distress, breathing non-labored
Abd: abd soft, appropriate ___ tenderness without 
rebound tenderness or guarding; abd lap sites with steri-strips, 
CDI
Ext: No lower extremity edema or tenderness, bilaterally
 
Pertinent Results:
___ 10:25AM BLOOD Hct-47.4
___ 07:20PM BLOOD WBC-16.4* RBC-5.79 Hgb-13.3* Hct-44.4 
MCV-77* MCH-23.0* MCHC-30.0* RDW-14.1 RDWSD-38.4 Plt ___
___ 07:20PM BLOOD Glucose-131* UreaN-11 Creat-1.0 Na-138 
K-4.0 Cl-101 HCO3-22 AnGap-15
___ 07:20PM BLOOD Calcium-8.7 Phos-3.8 Mg-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There were no 
adverse events in the operating room; please see the operative 
note for details. Pt was extubated, taken to the PACU until 
stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative ketorolac, gabapentin and acetaminophen; 
opioid medication was used only for severe breakthrough pain 
prn.
CV: The patient remained stable from a cardiovascular 
standpoint, however he was noted to have intermittent 
tachycardia (up to 120s with ambulation, 90s at rest), an ECG 
was reassuring and the hematocrit was stable.  Of note, pt's 
baseline hr ___ vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint, he was weaned from supplemental oxygen and vital 
signs were routinely monitored including continuous oxygen 
monitoring. Good pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 
 
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2,  which the patient was tolerating on day of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You have undergone a sleeve gastrectomy, recovered in the 
hospital and are now preparing for discharge to home with the 
following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon. You may wear your 
abdominal binder as needed for comfort.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

 
Followup Instructions:
___